US05208259
A mixture of 3-chloro-4-methyliodobenzene (9.0 g), N-bromosuccinimide (8.5 g), benzoyl peroxide (0.3 g) and carbon tetrachloride (80 ml) was stirred and heated to reflux for 3 hours. The mixture was cooled to ambient temperature and filtered. The filtrate was evaporated to give 4-bromomethyl-3-chloroiodobenzene (11 g) which was used without further purification.

reactant | 3-chloro-4-methyliodobenzene | 9.0 g | ClC=1C=C(C=CC1C)I | C7H6ClI
reactant | N-bromosuccinimide | 8.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-3-chloroiodobenzene | 11 g | BrCC1=C(C=C(C=C1)I)Cl | C7H5BrClI
